US07396849B2
A mixture of 4-iodo-1-tritylimidazole (commercially available) (4.5 g, 10.3 mmol) in dichloromethane (50 mL) at 22° C. was treated with ethyl magnesium bromide (3.48 mL, 10.4 mmol, 3M in ether) and allowed to react for 1 h. Anhydrous CeCl3 (3.3 g, 13.4 mmol) was added and the mixture was stirred for 30 m. A solution of 1-acetonaphthone (commercially available from Aldrich) (2.6 g, 15.9 mmol) in dichloromethane was added via syringe at 22° C. and stirred for 16 h. The mixture was quenched with a sat. solution of ammonium chloride (50 mL). The residue was isolated in a typical aqueous workup and purified by chromatography on silica gel with 50% EtOAc:hexane to give 1-naphthalen-1-yl-1-(1-trityl-1H-imidazol-4-yl)-ethanol (Intermediate H1) as a solid, 2.44 g (49%).

reactant | 4-iodo-1-tritylimidazole | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | ethyl magnesium bromide | 10.4 mmol, 3M, 3.48 mL | C(C)[Mg]Br
reactant | 1-acetonaphthone | CC(=O)C1=CC=CC2=CC=CC=C21 | C12H10O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-naphthalen-1-yl-1-(1-trityl-1H-imidazol-4-yl)-ethanol | C1(=CC=CC2=CC=CC=C12)C(C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H28N2O
